US04141902
In the manner given in Example 1, 6-trifluoromethyl-8-propylsulfonyl-5-(p-ethoxyphenyl)-3H-1,4-benzodiazepin-2-yl hydrazine was reacted with dichloroacetyl chloride and after 1.5 hours with sodium acetate, then refluxed to give 1-(dichloromethyl)-7-trifluoromethyl-9-propylsulfonyl-6-(p-ethoxyphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 6-trifluoromethyl-8-propylsulfonyl-5-(p-ethoxyphenyl)-3H-1,4-benzodiazepin-2-yl hydrazine | FC(C1=CC(=CC2=C1C(=NCC(=N2)NN)C2=CC=C(C=C2)OCC)S(=O)(=O)CCC)(F)F | C21H23F3N4O3S
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 1-(dichloromethyl)-7-trifluoromethyl-9-propylsulfonyl-6-(p-ethoxyphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC(C1=NN=C2N1C1=C(C(=NC2)C2=CC=C(C=C2)OCC)C(=CC(=C1)S(=O)(=O)CCC)C(F)(F)F)Cl | C23H21Cl2F3N4O3S
